US05776658
Preparation of 2-methyl-1-[4-methylthio-2-(2-triethoxysilylethyl)phenyl]-2-morpholino-1-propanone (8)
11.18 g (40 mmol) of 2-methyl-1-(4-methylthiophenyl)-2-morpholino-1-propanone, 735 mg (0.8 mmol) of RuH2 (CO) (PPh3)3 and 10.0 ml (48 mmol) of vinyltriethoxysilane in 60 ml of anhydrous toluene were degase with argon for 1/2 hour and boiled at reflux for 50 hours. Concentration and chromatography (silica gel, CH2Cl2 /ethyl acetate) gave 1.02 g (6%) of a yellowish oil. 1H-NMR (CDCl3): 0.99 ppm (2H, mc, Et-H2); 1.22 ppm (6H, s, CH3); 1.24 ppm (9H, t, CH3 of Si(OEt)3); 2.50 ppm (3H, s, SCH3); 2.59 ppm (4H, mc, morpholine-N--CH2); 2,69 ppm (2H, mc, Et-H1); 3.70 ppm (4H, mc, morpholine-O--CH2); 3.85 ppm (6H, q, SiOCH2, 3JH,H =6.8 Hz); 7.03 ppm (1H, dd, Ph-H5, 3 JH5,H6 =8.2 Hz, 4JH3, H5 =2.0 Hz); 7.13 ppm (1H, d, Ph-H3); 8.40 ppm (1H, d, Ph-H6).

reactant | 2-methyl-1-(4-methylthiophenyl)-2-morpholino-1-propanone | 40 mmol, 11.18 g | CC(C(=O)C1=CC=C(C=C1)SC)(C)N1CCOCC1 | C15H21NO2S
reactant | vinyltriethoxysilane | 48 mmol, 10.0 ml | C(=C)[Si](OCC)(OCC)OCC | C8H18O3Si
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-1-[4-methylthio-2-(2-triethoxysilylethyl)phenyl]-2-morpholino-1-propanone | 1.02 g, 6% | CC(C(=O)C1=C(C=C(C=C1)SC)CC[Si](OCC)(OCC)OCC)(C)N1CCOCC1 | C23H39NO5SSi
